US05354766
63a) Methyl 1-[[2'-(N-acetoxycarbamimidoyl)biphenyl-4-yl]methyl]-2-butylbenzimidazole-7-carboxylate
To a solution of methyl 2-butyl-l-[[2'-(hydroxycarbamimidoyl)biphenyl-4-yl]methyl]benzimidazole-7-carboxylate (1.83 g) in dichloromethane (20 ml) was added triethylamine (0.46 g) and acetic anhydride (0.46 g), and the reaction mixture was stirred at room temperature for 2 hours. After evaporation of the solvent, the residue was partitioned between ethylacetate and water and the organic layer was washed with an aqueous solution of NaHCO3 and water. The solution was dried and concentrated to dryness to give a pale yellow solid (1.99 g, quant.)

reactant | methyl 2-butyl-l-[[2'-(hydroxycarbamimidoyl)biphenyl-4-yl]methyl]benzimidazole-7-carboxylate | 1.83 g | C(CCC)C1=NC2=C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C(NO)=N)C(=CC=C2)C(=O)OC | C27H28N4O3
reactant | triethylamine | 0.46 g | C(C)N(CC)CC | C6H15N
reactant | acetic anhydride | 0.46 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | Methyl 1-[[2'-(N-acetoxycarbamimidoyl)biphenyl-4-yl]methyl]-2-butylbenzimidazole-7-carboxylate | C(C)(=O)ONC(=N)C1=C(C=CC=C1)C1=CC=C(C=C1)CN1C(=NC2=C1C(=CC=C2)C(=O)OC)CCCC | C29H30N4O4
